US07842688B2
c) tert-Butyl 3-(3-carboxy-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 1.68 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.700 g of methyl 5-chloromethyl-2-methylbenzoate are reacted. The title compound is obtained as a white foam. Rf=0.07 (1:2 EtOAc-heptane); Rt=5.65.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 1.68 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | methyl 5-chloromethyl-2-methylbenzoate | 0.700 g | ClCC=1C=CC(=C(C(=O)OC)C1)C | C10H11ClO2
product | tert-Butyl 3-(3-carboxy-4-methylbenzyloxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(=O)(O)C=1C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=CC1C | C36H45NO8
